US07625932B2
Preparation of 4-cyano-5-ethyl-1-methyl-3-{4-[1-methyl-2-(propane-2-sulfonylamino)-ethyl]-phenyl}-1H-pyrrole-2-carboxylic acid ethyl ester
Add 4-cyano-5-ethyl-1-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrole-2-carboxylic acid ethyl ester (0.22 g, 0.65 mmol, prepared in preparation 50), to propane-2-sulfonic acid [2-(4-iodo-phenyl)-propyl]-amide (0.20 g, 0.65 mmol, can be prepared as in J. Med. Chem., 43, 4354 (2000)), [1,1′-bis(diphenyl-phosphino)-ferrocene]dichloropalladium(1H) complex with methylene chloride (1:1) (0.013 g, 0.016 mmol), and 2M aqueous sodium carbonate (1.35 mL, 2.7 mmol) in DMF and heat to 80° C. After 3 hours, cool and pour into water. Extract with ethyl acetate. Wash the combined organics with water, and brine, dry over magnesium sulfate, filter and concentrate under reduced pressure. Purify the residue by flash chromatography (silica gel), eluting with ethyl acetate:hexanes to provide the title compound. Mass spectrum (ES+)=446.3 (M+1).

reactant | 4-cyano-5-ethyl-1-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrole-2-carboxylic acid ethyl ester | 0.65 mmol, 0.22 g | C(C)OC(=O)C=1N(C(=C(C1B1OC(C(O1)(C)C)(C)C)C#N)CC)C | C17H25BN2O4
reactant | propane-2-sulfonic acid [2-(4-iodo-phenyl)-propyl]-amide | 0.65 mmol, 0.20 g | IC1=CC=C(C=C1)C(CNS(=O)(=O)C(C)C)C | C12H18INO2S
reactant | methylene chloride | 0.016 mmol, 0.013 g | C(Cl)Cl | CH2Cl2
reactant | sodium carbonate | 2.7 mmol, 2M, 1.35 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-cyano-5-ethyl-1-methyl-3-{4-[1-methyl-2-(propane-2-sulfonylamino)-ethyl]-phenyl}-1H-pyrrole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C(C1C1=CC=C(C=C1)C(CNS(=O)(=O)C(C)C)C)C#N)CC)C | C23H31N3O4S
